US06498251B1
Synthesis Example 41c 3-Fluoro-2-methyl-benzoic Acid Methyl Ester
3-Fluoro-2-methyl-benzoic acid (4.8 g, 31 mmol), potassium carbonate (4.3 g, 31 mmol) and methyl iodide (4.5 g, 31 mmol) were stirred at room temperature for 17.5 hours in anhydrous N,N-dimethylformamide (50 ml). The reaction solution was mixed with ethyl acetate, washed with water and saturated brine and then dried with anhydrous magnesium sulfate. The solvent was removed by evaporation from the organic, layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 4.8 g (27 mmol, 87% in yield) of the title compound.

reactant | 3-Fluoro-2-methyl-benzoic acid | 31 mmol, 4.8 g | FC=1C(=C(C(=O)O)C=CC1)C | C8H7FO2
reactant | potassium carbonate | 31 mmol, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 31 mmol, 4.5 g | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Fluoro-2-methyl-benzoic Acid Methyl Ester | COC(C1=C(C(=CC=C1)F)C)=O | C9H9FO2
